US08580762B2
Step 10: Synthesis of 3-(3-oxocyclobutyl)propanoic acid
A solution of ethyl 3-(3-oxocyclobutyl)propanoate (200 mg, 1.18 mmol) in methanol (4 mL) was treated with water (0.75 mL) and a 2N solution of sodium hydroxide (0.75 mL, 1.41 mmol) and the solution was heated at 55° C. till the starting material was consumed by TLC (25% EA/hept). After 1 h the starting material was found to be consumed. The reaction mixture was cooled to room temperature and concentrated to remove the MeOH. The aqueous phase was diluted with 2 mL H2O and made acidic to pH˜2 with 1N HCl. The solution was saturated with NaCl and extracted with three 10 mL portions of ethyl acetate. The organic phase was dried over Na2SO4, filtered and concentrated to yield the title compound (157 mg, 94%) as a light orange viscous oil that was used as is in the next step: GC purity 63.2% (ret. time, 4.27 min).

reactant | ethyl 3-(3-oxocyclobutyl)propanoate | 1.18 mmol, 200 mg | O=C1CC(C1)CCC(=O)OCC | C9H14O3
reactant | water | 0.75 mL | O | H2O
reactant | sodium hydroxide | 1.41 mmol, 0.75 mL | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 3-(3-oxocyclobutyl)propanoic acid | 157 mg, 94% | O=C1CC(C1)CCC(=O)O | C7H10O3
